US05624942
(1) Synthesis of an intermediate, 2-chloro-4-methylamino-6-(3-thienylmethyloxy)pyridine
To a solution of 3-thiophenemethanol (1.42 g, 0.0113×1.1 mol) in 20 ml of dry tetrahydrofuran, sodium hydride (1.35 g (ca.60% in mineral oil), 0.0113×3.0 mol) was added. After the bubbling ceased, a solution of 2,6-dichloro-4-methylaminopyridine (2.0 g, 0.0113 mol) in 30 ml of dry tetrahydrofuran was added dropwise at room temperature.

reactant | 3-thiophenemethanol | 1.1 mol, 1.42 g | S1C=C(C=C1)CO | C5H6OS
reactant | sodium hydride | 3.0 mol, 1.35 g | [H-].[Na+]
reactant | 2,6-dichloro-4-methylaminopyridine | 0.0113 mol, 2.0 g | ClC1=NC(=CC(=C1)NC)Cl | C6H6Cl2N2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-chloro-4-methylamino-6-(3-thienylmethyloxy)pyridine | ClC1=NC(=CC(=C1)NC)OCC1=CSC=C1 | C11H11ClN2OS
